US07544688B2
C: [2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9H-purin-6-yl)-amine
2,6-Dichioropurine (10 mmol) and 2-(3-Chloro-propoxy)-phenylamine (˜20 mmol) are dissolved in 1-pentanol and heated up to 70° C. and the mixture is stirred at this temperature for 5 hours. While cooling down to R the product precipitated. The solid material was filtered off and washed with 1-pentanol and diethyl ether. A solid powder with mp. 205° C., Rf=0.42 (CH2Cl2/MeOH=10:1) is obtained.

reactant | 2,6-Dichioropurine | 10 mmol | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | 2-(3-Chloro-propoxy)-phenylamine | ˜20 mmol | ClCCCOC1=C(C=CC=C1)N | C9H12ClNO
solvent | 1-pentanol | C(CCCC)O | C5H12O
product | [2-(3-Chloro-propoxy)-phenyl]-(2-chloro-9H-purin-6-yl)-amine | ClCCCOC1=C(C=CC=C1)NC1=C2N=CNC2=NC(=N1)Cl | C14H13Cl2N5O
